US04409214
Trifluoroacetic acid (16.0 ml) was added to a solution of benzhydryl 7-[2-[5-{N-(N,N-dimethylaminomethylene)amino}-1,2,4-thiadiazol-3-yl]-2-tertbutoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.0 g) in methylene chloride (8.0 ml) and anisole (4.0 ml) under ice-cooling, and the mixture was stirred at ambient temperature for 1.5 hours. The reaction mixture was added dropwise to diisopropyl ether (200 ml), and the precipitated substance was collected by filtration and then added to a mixture of water and ethyl acetate, followed by adjusting to pH 7.5 with a saturated aqueous sodium bicarbonate. The separated aqueous layer was saturated with sodium chloride and adjusted to pH 2.5 with 10% hydrochloric acid, followed by extraction with a mixed solvent of ethyl acetate and tetrahydrofuran (1:2 by volume). The extract was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave a residue, which was washed with diethyl ether and collected by filtration to obtain 7-[2-(5-formamido-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.75 g).

reactant | Trifluoroacetic acid | 16.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-[5-{N-(N,N-dimethylaminomethylene)amino}-1,2,4-thiadiazol-3-yl]-2-tertbutoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 4.0 g | CN(C)C=NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C35H37N7O7S2
reactant | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 8.0 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 4.0 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(5-formamido-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.75 g | C(=O)NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)O | C16H14N6O8S2
